US06046232
Synthesis of α-(4-Benzyloxy-3-methoxyphenyl)-N-n-butylnitrone
The title compound was prepared according to the procedures described in Examples 11 using 4-benzyloxy-3-methoxybenzaldehyde and N-n-butylhydroxylamine. The title compound was isolated in 41.7% yield as a solid, m.p. 81.2° C.

reactant | 4-benzyloxy-3-methoxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | N-n-butylhydroxylamine | C(CCC)NO | C4H11NO
product | α-(4-Benzyloxy-3-methoxyphenyl)-N-n-butylnitrone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=[N+]([O-])CCCC)OC | C19H23NO3
